US07863291B2
2-Chloro-6-methoxyquinoxaline (0.93 g, 4.77 mmol) and (2,4-dimethoxyphenyl)methanamine (2.2 ml, 14.64 mmol) were microwaved in dimethylsulfoxide (5 mL) for 30 min at 150° C. The reaction was diluted into ethyl acetate (250 mL) and extracted with brine (3×100 mL). The crude product was purified by column chromatography (20 to 80% ethyl acetate/hexanes) to afford N-(2,4-dimethoxybenzyl)-6-methoxyquinoxalin-2-amine (1.46 g, 87% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.13 (1 H, s), 7.59-7.63 (1 H, m), 7.30 (1 H, d, J=8.31 Hz), 7.21-7.24 (2 H, m), 6.47 (1 H, d, J=2.27 Hz), 6.42 (1 H, dd, J=8.31, 2.27 Hz), 5.10 (1 H, t, J=5.92 Hz), 4.61 (2 H, d, J=5.79 Hz), 3.88 (3 H, s), 3.84 (3 H, s), 3.78 (3H, s). MS (LC/MS) R.T.=1.95; [M+H]+=326.23.

reactant | 2-Chloro-6-methoxyquinoxaline | 4.77 mmol, 0.93 g | ClC1=NC2=CC=C(C=C2N=C1)OC | C9H7ClN2O
reactant | (2,4-dimethoxyphenyl)methanamine | 14.64 mmol, 2.2 ml | COC1=C(C=CC(=C1)OC)CN | C9H13NO2
reactant | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 5 mL | CS(=O)C | C2H6OS
product | N-(2,4-dimethoxybenzyl)-6-methoxyquinoxalin-2-amine | 1.46 g, 87% yield | COC1=C(CNC2=NC3=CC=C(C=C3N=C2)OC)C=CC(=C1)OC | C18H19N3O3
